Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Oxycodone / amiodarone
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o COPD, atage I lung cancer s/p cyberknife (followed 
at ___, hypothyroid, CKD who presents for tachycardia 
and shortness of breath. Patient notes having had dysuria prior 
and was prescribed nitrofurantoin which she took ___. She 
then began feeling dizzy with movement. She noted having fevers 
to ___ yesterday, and then had worsening shortenss of breath and 
continued dizziness. She went to bed and the woke with sudden 
onsent of palpitations and worse shortness of breath so she 
called EMS. EMS rhythm strip was notable for SVT in rate of 160s 
that broke prior to administration of any medications. She 
states she has had similar feelings many times, that you usually 
resolve with vagal maneuvers. She denies chest pain, no 
nausea/vomit/diarrhea, still has dysuria, some nausea. Currently 
she feels that she is very wheezy. She was noted to desat to 89% 
RA.  
 
In the ED, initial vitals were: 99.1 84 131/68 18 94% ra  
- Exam: wheezes throughout, left lower lung crackles, no ___ 
edema, benign abd  
- Labs were significant for: BUN/Cr ___, WBC 10.6, K 3.2, 
trop <0.01 and otherwise normal labs  
- VBG: 7.43/47  
- UA without signs of UTI  
- Imaging revealed  
- The patient was given: 1g tylenol, duonebs, pred 60, CTX + 
azithro, KCL 40 mEq 

Upon arrival to the floor, she is feeling much better after her 
treatment in the ED. Still feels wheezy which has never happened 
before. No history of COPD exacerbations.

 
Past Medical History:
Ascending Aortic Aneurysm s/p repair  
Hypertension  
Dyslipidemia  
Colonic polyps  
Renal Insufficiency 
History of ischemic CVA ___ visual disturbance)  
COPD/Asthma  
Uterine cancer  
Stage I  lung cancer s/p cyberknife therapy
Giant Cell Arteritis/Polymyalgia Rheumatica (no longer on 
steroids) 
Obesity  
Elevated HgbA1c (while on steroids)  
Hypothyroidism  
History of + PPD  
Elevated CRP  
Colovesicular fistula and Diverticulitis  
Past Surgical History:  
s/p Total Abd Hysterectomy  
s/p Temporal artery biopsy  
s/p Tonsillectomy  
s/p Placement of left-sided ureteral stent, sigmoid colectomy,  
takedown of colovesicular fistula, mobilization of splenic  
flexure and diverting loop ileostomy  
s/p Ileostomy takedown  
 

 
Social History:
___
Family History:
Mother with abd aortic aneurysm. Both parents
with CVAs

 
Physical Exam:
ADMIT PHYSICAL EXAM
Vitals:98.1 62 108/56 18 92%2L  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear,  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Decrease breath sounds throughout with end expiratory 
wheezes diffusely, audible wheezing without auscultation 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, Moves all extremities without 
difficulty.

DISCHARGE PHYSICAL EXAM:  
Vitals:98 61 120/60 18 93%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear,  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Increased air movement as compared to prior, end 
expiratory wheezes, crackles in LLL 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, Moves all extremities without 
difficulty.  

 
Pertinent Results:
ADMIT LABS:
___ 02:50AM BLOOD WBC-10.6 RBC-4.42 Hgb-14.0 Hct-39.2 
MCV-89 MCH-31.6# MCHC-35.6*# RDW-14.6 Plt ___
___ 02:50AM BLOOD Neuts-84.9* Lymphs-7.9* Monos-3.4 Eos-3.5 
Baso-0.4
___ 02:50AM BLOOD ___ PTT-30.6 ___
___ 02:50AM BLOOD Glucose-103* UreaN-23* Creat-1.2* Na-136 
K-3.2* Cl-99 HCO3-27 AnGap-13
___ 02:50AM BLOOD cTropnT-<0.01
___ 02:50AM BLOOD Calcium-9.6 Phos-3.0 Mg-1.8
___ 02:00AM URINE Blood-TR Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:00AM URINE RBC-<1 WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1

CXR
1. Subtle retrocardiac opacity on lateral radiograph, 
potentially due to 
overlap of normal structures due to oblique positioning.  If 
there remains 
clinical suspicion for pneumonia, repeat radiograph with 
improved positioning 
would be helpful. 
2. Right lower lobe neoplastic nodule with fiducial marker in 
place. 

DISCHARGE LABS:
___ 05:25AM BLOOD WBC-8.2 RBC-4.36 Hgb-13.9 Hct-39.4 MCV-90 
MCH-31.8 MCHC-35.2* RDW-14.7 Plt ___
___ 05:25AM BLOOD Glucose-102* UreaN-25* Creat-1.0 Na-143 
K-3.7 Cl-103 HCO3-30 AnGap-___ with h/o COPD, stage I lung cancer s/p cyberknife, 
hypothyroid, CKD who presented with fever, shortness of breath 
and wheezing. Found to have retrocardiac opacity on CXR 
concerning for pneumonia.

#CAP
#COPD exacerbation: given fever, CAP likely causing COPD 
exacerbation. Treated with duonebs, levofloxacin 750mg daily, 
prednisone 40mg daily with improvement in symptoms after 1 day 
of treatment. 

#CKD: baseline Cr 1.2, improved to 1.0 with IVF.

#HTN:continued HCTZ, atenolol and Losartan

#Hypothyroidism: continued levothyroxine

#Depression: continued buproprion, fluoxetine

Transitional Issues:
1. Follow up in 1 month with ___ Thoracic Oncology for 
follow up of lung cancer s/p cyberknife. Recommend repeat CXR in 
___ weeks to asses for resolution of pneumonia.
2. 7 days of levoloxacin 750mg last day ___. 5 days of prednisone 40mg daily last day ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. Fluoxetine 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Vitamin B Complex 1 CAP PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Atenolol 37.5 mg PO DAILY 
10. Levothyroxine Sodium 200 mcg PO DAILY 
11. Losartan Potassium 50 mg PO DAILY 
12. Aspirin 325 mg PO EVERY OTHER DAY 
13. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO EVERY OTHER DAY 
2. Atenolol 37.5 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Fluoxetine 40 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Levothyroxine Sodium 200 mcg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0
11. PredniSONE 40 mg PO DAILY Duration: 4 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
12. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
13. Hydrochlorothiazide 25 mg PO DAILY 
14. Losartan Potassium 50 mg PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Communtiy Acquired Pneumonia
COPD exacerbation

Secondary: 
Chronic Kidney Disease
Hypertension
History of Lung Cancer
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for shortness of breath. We 
treated you for pneumonia and a COPD exacerbation. You will 
continue to take the antibiotics and steroids for the next few 
days. 

Please follow up with your PCP and also you cancer doctor for 
follow up of your lung cancer.

Sincerely,
Your ___ Team
 
Followup Instructions:
___